US04167638
4-Amino-1,2-methylenedioxy-5-nitrobenzene was made according to the method of Lott, et al.--J. Amer. Chem. Soc., 70, 3621 (1848). It was subjected to a Skraup reaction with methyl vinyl ketone to provide 5,6-methylenedioxy-4-methyl-8-nitroquinoline. The crude compound was crystallized from acetone to give a 63% yield of pure substance; mp 183°-185°.

reactant | 4-Amino-1,2-methylenedioxy-5-nitrobenzene | NC1=CC2=C(C=C1[N+](=O)[O-])OCO2 | C7H6N2O4
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 5,6-methylenedioxy-4-methyl-8-nitroquinoline | 63% yield | C1OC2=C3C(=CC=NC3=C(C=C2O1)[N+](=O)[O-])C | C11H8N2O4
